US05672697
3'-O-t-Butyldimethylsilyl-N6 -benzoyl-2'-deoxyadenosine (10)
This compound was prepared from N6 -benzoyl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyadenosine by the same procedure used for the preparation of 3'-O-t-butyldimethylsilyl-N2 -isobutyryl-2'-deoxyguanosine.

reactant | N6 -benzoyl-5'-O-(4,4'-dimethoxytrityl)-2'-deoxyadenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](COC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)O3)C2N=CN1 | C38H35N5O6
reactant | 3'-O-t-butyldimethylsilyl-N2 -isobutyryl-2'-deoxyguanosine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(NC(C(C)C)=O)=NC12 | C20H33N5O5Si
product | 3'-O-t-Butyldimethylsilyl-N6 -benzoyl-2'-deoxyadenosine | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(NC(C3=CC=CC=C3)=O)=NC=NC12 | C23H31N5O4Si
